US05318966
8.8 g (22.1 mmol) of rac-cis-1-[4-(6-methoxy-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-3-yl)-butyl]-4,4-dimethyl-piperidine-2,6-dione hydrochloride were mixed well with 100 g of pyridine hydrochloride and stirred under an argon atmosphere in an oil bath for 4 hours at an oil bath temperature of 180°. After cooling the mixture was treated with ice-water, whereupon the brown solution was made alkaline with ammonium hydroxide solution and then extracted with methylene chloride. The organic phase was washed with water, dried over magnesium sulphate and evaporated. The brown oily product obtained (9.8 g) was chromatographed on a 30-fold amount of silica gel. The uniform eluates obtained in a thin-layer chromatogram using methylene chloride/ethyl acetate 1:1 were pooled and evaporated. The oil obtained crystallized after treatment with hexane. There were obtained 5.5 g (65%) of rac-cis-1-(6-hydroxy-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-3-yl)-butyl]-4,4-dimethyl-piperidine-2,6-dione in the form of yellowish crystals of m.p. 131°-132°.

reactant | rac-cis-1-[4-(6-methoxy-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-3-yl)-butyl]-4,4-dimethyl-piperidine-2,6-dione hydrochloride | 22.1 mmol, 8.8 g | Cl.COC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCN2C(CC(CC2=O)(C)C)=O
reactant | pyridine hydrochloride | 100 g | Cl.N1=CC=CC=C1
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methylene chloride ethyl acetate | C(Cl)Cl.C(C)(=O)OCC
product | 4,4-dimethyl-piperidine-2,6-dione | CC1(CC(NC(C1)=O)=O)C | C7H11NO2
